US03996280
Ethyleneimine (2.9 g., 0.068 mole), triethylamine (6.8 g., 0.068 mole) and diethyl ether (250 ml.) are cooled to 0° C. and stirred while adding 2,5-di-(2,2,2-trifluoroethoxy)benzoyl chloride (22.8 g., 0.068 mole). The mixture is allowed to warm to room temperature and filtered. The filtrate is treated with 6.6 N isopropanol-hydrochloric acid mixture and filtered and the solvent evaporated in vacuo to give N-(2-chloroethyl)-2,5-di-(2,2,2-trifluoroethoxy-benzamide, m.p. 87°-88.5° C.

reactant | Ethyleneimine | 0.068 mole, 2.9 g | C1CN1 | C2H5N
reactant | triethylamine | 0.068 mole, 6.8 g | C(C)N(CC)CC | C6H15N
reactant | 2,5-di-(2,2,2-trifluoroethoxy)benzoyl chloride | 0.068 mole, 22.8 g | FC(COC1=C(C(=O)Cl)C=C(C=C1)OCC(F)(F)F)(F)F | C11H7ClF6O3
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 2,2,2-trifluoroethoxy-benzamide | FC(COC1=C(C(=O)N)C=CC=C1)(F)F | C9H8F3NO2
